US05767131
1-(3-Aminopropyl)-4,4-diphenylpiperidine.
To a stirred solution of 3-(4,4-diphenylpiperidin-1-yl)propionitrile (2.00 g, 6.89 mmol, 1.0 equiv) in anhydrous THF (20 mL) under argon was added a solution of BH3 in THF (1.0M, 24.1 mL, 24 mmol, 3.5 equiv) at room temperature. The mixture was refluxed for 4.5 hours and then cooled to room temperature. Aqueous HCl (6N, 50 mL) was added and stirring was continued for 1 hour. The mixture was basified to pH 9 by addition of 6N aq. NaOH, extracted 3 times with CH2Cl2, dried over MgSO4 and concentrated. The residue was purified by flash chromatography (SiO2, EtOAc-MeOH-isopropylamine 9:1:0 to 4:1:0.2) to give 1.35 g (66%) of tan solid, which was characterized spectroscopically.

reactant | 3-(4,4-diphenylpiperidin-1-yl)propionitrile | 6.89 mmol, 2.00 g, 1.0 equiv | C1(=CC=CC=C1)C1(CCN(CC1)CCC#N)C1=CC=CC=C1 | C20H22N2
reactant | HCl | 6N, 50 mL | Cl | ClH
reactant | NaOH | 6N | [OH-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 24 mmol, 1.0M, 24.1 mL, 3.5 equiv | C1CCOC1 | C4H8O
product | 1-(3-Aminopropyl)-4,4-diphenylpiperidine | 1.35 g, 66% | NCCCN1CCC(CC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H26N2
